US08431603B2
(17a) (4-Bromo-3,5-dimethoxyphenyl)methanol
To a mixture of 4-bromo-3,5-dimethoxybenzoic acid (50.0 g, 192 mmol) and THF (1 L) was added borane-methyl sulfide (27.1 mL, 286 mmol) while cooling on ice, and the mixture was heated to reflux for 1 hour. Water was slowly added to the mixture while cooling on ice, and then the solvent in the mixture was distilled off under reduced pressure. Water and ethyl acetate were added to the residue. After thoroughly shaking the mixture, the organic layer was separated and the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The mixture was then filtered, and the solvent in the filtrate was distilled off under reduced pressure to obtain the title compound (47.3 g, 191 mmol).

reactant | 4-bromo-3,5-dimethoxybenzoic acid | 192 mmol, 50.0 g | BrC1=C(C=C(C(=O)O)C=C1OC)OC | C9H9BrO4
reactant | THF | 1 L | C1CCOC1 | C4H8O
reactant | borane methyl sulfide | 286 mmol, 27.1 mL | B.CSC
solvent | Water | O | H2O
product | (4-Bromo-3,5-dimethoxyphenyl)methanol | 191 mmol, 47.3 g | BrC1=C(C=C(C=C1OC)CO)OC | C9H11BrO3
